**************** Power Discrete MOSFET Electrical Circuit Model *****************
** Product Name: FDA70N20
** 200V N-Channel MOSFET and TO-3P
** Model Type: BSIM3V3
**-------------------------------------------------------------------------------
.SUBCKT FDA70N20 2 1 3    
*Nom Temp=25 deg C
Dbody 7 5    DbodyMOD
Dbreak 5 11  DbreakMOD
Ebreak 11 7 17 7 200
Lgate 1 9    6.43e-9
Ldrain 2 5   1.45e-9
Lsource 3 7  2.94e-9
RLgate 1 9   64.3
RLdrain 2 5  14.5
RLsource 3 7 29.4
Rgate 9 6    15
It 7 17      1
Rbreak 17 7  RbreakMOD 1
.MODEL RbreakMOD RES (TC1=1.22e-3 TC2=-2.4e-6)
.MODEL DbodyMOD D (IS=6.05e-12 N=1     RS=5.22e-3 TRS1=2.8e-3 TRS2=1e-6 
+ CJO=5.02e-9      M=0.31      VJ=0.47 TT=1.75e-7 XTI=3       EG=1.12)
.MODEL DbreakMOD D (RS=100e-3 TRS1=1e-3 TRS2=1.0e-6)
Rdrain 5 16 RdrainMOD 0.026
.MODEL RdrainMOD RES (TC1=8.8e-3 TC2=3.5e-5)
M_BSIM3 16 6 7 7 Bsim3 W=16.45 L=2.0e-6 NRS=1
.MODEL  Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 PARAMCHK=1 NQSMOD=0
+ TOX=1100e-10   XJ=1.4e-6    NCH=1.83e17
+ U0=700         VSAT=1.0e5   DROUT=1.0
+ DELTA=0.10     PSCBE2=0     RSH=5.09e-6
+ VTH0=4.95      VOFF=-0.1    NFACTOR=1.1
+ LINT=1.02e-7    DLC=7.6e-7   FC=0.5
+ CGSO=1.05e-15  CGSL=1.0e-15 CGDO=1.0e-15
+ CGDL=3.15e-10   CJ=0         CF=0   
+ CKAPPA=0.00014 KT1=-1.68    KT2=0
+ UA1=1e-9       NJ=10)
.ENDS FDA70N20

*************** Power Discrete MOSFET Thermal Model ********************
** Package: TO-3P
**----------------------------------------------------------------------
.SUBCKT FDA70N20_THERMAL TH TL
CTHERM1 TH 6 8.44e-4
CTHERM2 6 5  1.08e-3
CTHERM3 5 4  1.34e-2
CTHERM4 4 3  3.22e-2
CTHERM5 3 2  3.92e-1
CTHERM6 2 TL 4.82e-1
RTHERM1 TH 6 1.80e-4
RTHERM2 6 5  2.20e-3
RTHERM3 5 4  8.00e-3
RTHERM4 4 3  4.70e-2
RTHERM5 3 2  8.39e-2
RTHERM6 2 TL 1.59e-1
.ENDS FDA70N20_THERMAL
**---------------------------------------------------------------------
** Creation: Oct.-01-2008   Rev.:0.0
** Fairchild Semiconductor

